US07304064B2
1-{[1-(Cyclohexylmethyl)-7-methoxy-1H-indol-3-yl]carbonyl}-2,3,5,6-tetramethylpiperazine, hydrochloride salt
To a solution of diisopropylethylamine (0.83 ml, 4.90 mmol) and 2,3,5,6-tetramethylpiperazine (0.35 g, 2.45 mmol) in dichloromethane (5 ml) was added a solution of 1-(cyclohexylmethyl)-7-methoxyindole-3-carbonyl chloride (0.33 g, 1.08 mmol, prepared following the method in Example 1) in dichloromethane (5 ml). The mixture was stirred at room temperature for 6 h, evaporated under reduced pressure and the residue purified by flash chromatography eluting with 5-10% (v/v) methanol in dichloromethane to afford the title compound (free base) as a colourless oil (0.43 g). The free base (0.1 g, 0.24 mmol) was dissolved in dichloromethane (1 ml), treated dropwise with 2 M hydrochloric acid in diethyl ether (0.3 ml) and diethyl ether (3 ml). The resulting precipitate was collected by filtration, washed with diethyl ether (15 ml) and dried under reduced pressure to afford the title compound (1:1 hydrochloric acid salt) as a white solid (0.09 g, 0.20 mmol). 1H NMR (400 MHz, CD3OD) δH 0.98-1.39 (8H, m), 1.42 (6H, d, J 7.0), 1.64-1.89 (9H, m), 3.44-3.70 (3H, m), 3.95 (3H, s), 4.21-4.34 (3H, m), 6.77 (1H, d, J 7.7), 7.11 (1H, t, J 8.2), 7.38 (1H, d, J 8.2), 7.58 (1H, s); EIMS: m/z 412.4 [M+H]+.

reactant | diisopropylethylamine | 4.90 mmol, 0.83 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2,3,5,6-tetramethylpiperazine | 2.45 mmol, 0.35 g | CC1NC(C(NC1C)C)C | C8H18N2
reactant | 1-(cyclohexylmethyl)-7-methoxyindole-3-carbonyl chloride | C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C(=O)Cl | C17H20ClNO2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-{[1-(Cyclohexylmethyl)-7-methoxy-1H-indol-3-yl]carbonyl}-2,3,5,6-tetramethylpiperazine, hydrochloride salt | 0.43 g | Cl.C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C(=O)N1C(C(NC(C1C)C)C)C | InChI=1S/C25H37N3O2.ClH/c1-16-18(3)28(19(4)17(2)26-16)25(29)22-15-27(14-20-10-7-6-8-11-20)24-21(22)12-9-13-23(24)30-5;/h9,12-13,15-20,26H,6-8,10-11,14H2,1-5H3;1H
